US04677216
Seven milliliters of a THF solution of 14.2 g (55 mmols) of 1,4-dichloro-2-(trichloro)silyl-2-butene was cooled to -10° C., into which was gently dropped a mixed solution of 10 ml (55×3×1.5 mmols) of CH3OH and 34.5 ml (55×3×1.5 mmols) of (C2H5)3N. Subsequently, the mixture was agitated for 1 hour, to which was added 30 ml of dried ether. The resulting (C2H5)3N.HCl was removed by filtration and the solvent was distilled off under a reduced pressure and subjected to vacuum distillation to obtain 10.8 g of 1,4-dichloro-2-(trimethoxy) silyl-2-butene.

reactant | THF | Seven milliliters | C1CCOC1 | C4H8O
reactant | 1,4-dichloro-2-(trichloro)silyl-2-butene | 55 mmols, 14.2 g | ClCC(=CCCl)[Si](Cl)(Cl)Cl | C4H5Cl5Si
reactant | CH3OH | 1.5 mmols, 10 ml | CO | CH4O
reactant | (C2H5)3N | 1.5 mmols, 34.5 ml | N(CC)(CC)CC | C6H15N
reactant | ether | 30 ml | CCOCC | C4H10O
product | 1,4-dichloro-2-(trimethoxy) silyl-2-butene | 10.8 g, Yield: 80% | ClCC(=CCCl)[Si](OC)(OC)OC | C7H14Cl2O3Si
